US05942555
Preparation of N-Succinimidyl 6-Maleimidohexanoate
(Z)-4-Oxo-5-aza-2-undecendioic acid, 150.0 g (0.654 moles), acetic anhydride, 68 ml (73.5 g, 0.721 moles), and phenothiazine, 500 mg, were added to a 2 liter three-neck round bottom flask equipped with an overhead stirrer. Triethylamine, 91 ml (0.653 moles), and 600 ml of THF were added and the mixture was heated to reflux while stirring. After a total of 4 hours of reflux, the dark mixture was cooled to <60° C. and poured into a solution of 250 ml of 12 N HCl in 3 liters of water. The mixture was stirred 3 hours at room temperature and then was filtered through a Celite 545 pad to remove solids. The filtrate was extracted with 4×500 ml of chloroform and the combined extracts were dried over sodium sulfate. After adding 15 mg of phenothiazine to prevent polymerization, the solvent was removed under reduced pressure. The 6-maleimidohexanoic acid was recrystallized from 2:1 hexane:chloroform to give typical yields of 76-83 g (55-60%) with a melting point of 81-85° C. Analysis on an NMR spectrometer was consistent with the desired product: 1H NMR (CDCl3) maleimide protons 6.55 (s, 2H), methylene adjacent to nitrogen 3.40 (t, 2H), methylene adjacent to carbonyl 2.30 (t, 2H), and remaining methylenes 1.05-1.85 (m, 6H).

reactant | (Z)-4-Oxo-5-aza-2-undecendioic acid | O=C(\C=C/C(=O)O)NCCCCCC(=O)O | C10H15NO5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | HCl | 12 N, 250 ml | Cl | ClH
reactant | water | 3 liters | O | H2O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | N-Succinimidyl 6-Maleimidohexanoate | C1CC(=O)N(C1=O)OC(=O)CCCCCN2C(=O)C=CC2=O | C14H16N2O6
